Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of GERD and 
PUD
presenting with persistent cough, transient myalgias,
intermittent chest pain, and shortness of breath with exertion. 
Coughing is described as dry, without sore throat both get worse
at night. He also endorses feeling feverish last night with
chills. He has had transited myalgias and intermittent chest
pain. Pain is in the ___ his chest lasts seconds, does not
radiate, is not associated with activity, SOB, palpitations, or
diaphoresis. Chest pain does not changes with position and is 
not
pleuritic. He also endorses worsening DOE and now feels like he
gets out of breath just walking up stairs. He endorses fatigue
but thinks this is because he has a newborn.

Patient initially presented to ___ on ___ with dry cough that
had been present for 2 weeks. At that time, his oxygen was noted
to be 95% on room air, CXR was normal, and EKG was unremarkable.
He has a infant at home. He was prescribed azithromycin and
Tessalon Perles, and instructed to restart omeprazole. In the
intervening 2 weeks, he felt that his symptoms were gradually
improving with the Tessalon Perles. 

He returned to ___ yesterday (___) as his dry cough returned
associated with transient myalgias, intermittent chest pain, and
dyspnea on exertion. He says the symptoms feel identical to 
those
in ___. Of note, his infant daughter was diagnosed with
croup on ___. In clinic ambulatory O2 with desaturation to ___
with walking stairs on room air. CBC on ___ showed marked
leukocytosis to 36.2 with PMN predominance. Peripheral smear was
reviewed and negative for blasts. 

Patient denies sick contacts other than his daughter who was
diagnosed with croup two days ago. He has not traveled outside 
of
the country. Patient recently quit smoking ___ year ago, prior
smoked for ___ years ___ cigarettes a day.  He lives in a house
that was built ___ years ago, and was up to code at the time they
moved in ___ years ago. His wife has not been experiencing any of
these symptoms. He reports  no new cleaning products or pets at
home. He reports that he was vaccinated with a Tdap booster 
prior
to the birth of his young daughter (___). He also states that
his mother has a history of asthma, and he wonders if he has a
component of this as well.

He denies fevers. He endorses occasional chills, some sore 
throat
due to coughing, some myalgias. He denies night sweats, weight
loss, abdominal pain, dysuria, diarrhea, constipation, swelling
in legs. No association with food. 

In the ED, he was afebrile with temp: 97.8 HR: 80 BP: 134/87
Resp: 18 O2 Sat: 97 Normal

Exam notable for:

O2 desaturation with ambulation down to 87%;

Constitutional: Comfortable
ENT / Neck: Oropharynx within normal limits
Chest/Resp: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
GI / Abdominal: Soft, Nontender
GU/Flank: Back nl inspection
Musc/Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mentation

Labs were notable for:

      13.9
13.1* >----< 202  (WBC diff: N:83.0 L:12.0 M:3.5 E:0.6 Bas:0.2)
      41.7

145  105  12 
-------------< 91
4.3  26   0.9

FluAPCR: Negative, FluBPCR: Negative
Lactate 1.1
proBNP: 211

Studies performed include:

CTA Chest ___
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Bilateral pulmonary nodules measure up to 5 mm.
3.  Mild bilateral centrilobular emphysema with mild bilateral
airway inflammation 

EKG: NSR per ED records

Patient was given: IV ceftriaxone, IV azithromycin

Consults: None

Vitals on transfer:  Temp: 98.8 PO BP: 133/86 R Lying HR: 77 RR:
18 O2 sat: 97% Ra 

Upon arrival to the floor, patient has no complaints and
confirmed the history as above. He endorses waking up in the
middle of the night with shortness of breath and shortness of
breath with daily activities 2 days ago, which resolved and was
asymptomatic at work. Overnight, he was continued on IV CTX and
Azithro. 

 
Past Medical History:
EtOH abuse
Headache                                                        
ATYPICAL CHEST PAIN                                             
LIPOMA                                                          
LOWER BACK PAIN - disc herniation of the L5-S1
 
Social History:
___
Family History:
Significant cardiovascular history on father's side with stroke
and heart attack.
PGF: Stroke, age ___, deceased
MGM: Pancreatic cancer age ___
Mother: ___
 
Physical ___:
ADMISSION PHYSICAL EXAM
VITALS: Temp: 98.8 PO BP: 133/86 R Lying HR: 77 RR: 18 O2 sat:
97% Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Moist mucous membranes.
Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM
VITALS: T 97.9, BP 118/73, HR 69, RR 18, O2 sat 93% on RA
GENERAL: Pleasant young man, alert and interactive. In no acute
distress.
HEENT: Normocephalic, atraumatic. Moist mucous membranes.
Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops/thrills.
LUNGS: Fine crackles in the bilateral bases. No wheezes or
rhonchi.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
SKIN: Warm. No rashes or other lesions.
NEUROLOGIC: A&Ox3, moving all 4 extremities with purpose
 
Pertinent Results:
ADMISSION LABS
___ 04:47PM   WBC-13.1* RBC-4.86 HGB-13.9 HCT-41.7 MCV-86 
MCH-28.6 MCHC-33.3 RDW-12.7 RDWSD-39.5
___ 04:47PM   NEUTS-83.0* LYMPHS-12.0* MONOS-3.5* EOS-0.6* 
BASOS-0.2 IM ___ AbsNeut-10.86* AbsLymp-1.57 AbsMono-0.46 
AbsEos-0.08 AbsBaso-0.03
___ 04:47PM   proBNP-211*
___ 04:47PM   cTropnT-<0.01
___ 04:47PM   GLUCOSE-91 UREA N-12 CREAT-0.9 SODIUM-145 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-26 ANION GAP-14
___ 04:57PM   LACTATE-1.1
___ 06:07PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 06:07PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.5 
LEUK-NEG
___ 05:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

PERTINENT/DISCHARGE LABS
___ 05:26AM BLOOD WBC-10.5* RBC-4.78 Hgb-14.0 Hct-42.1 
MCV-88 MCH-29.3 MCHC-33.3 RDW-13.0 RDWSD-41.9 Plt ___
___ 05:26AM BLOOD Neuts-75.7* Lymphs-16.5* Monos-5.7 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-7.93* AbsLymp-1.73 
AbsMono-0.60 AbsEos-0.12 AbsBaso-0.05
___ 05:26AM BLOOD Glucose-90 UreaN-18 Creat-1.0 Na-144 
K-4.7 Cl-104 HCO3-28 AnGap-12
___ 05:26AM BLOOD ALT-26 AST-19 LD(LDH)-198 AlkPhos-66 
TotBili-0.4
___ 05:26AM BLOOD Albumin-4.1 Calcium-9.4 Phos-4.8* Mg-2.0
___ 05:26AM BLOOD HIV Ab-NEG
___ 05:26AM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
___ 05:26AM BLOOD B-GLUCAN-PND
___ 02:48PM BLOOD PERTUSSIS SEROLOGY-___

IMAGING/STUDIES
CTA chest ___- IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Bilateral pulmonary nodules measure up to 5 mm, see below for 
___ criteria. 
3.  Mild bilateral centrilobular emphysema with mild bilateral 
airway 
inflammation 
  
RECOMMENDATION(S): 
For incidentally detected multiple solid pulmonary nodules 
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT follow-up in 12 months is 
recommended in a high-risk patient.

TTE ___- The left atrium is mildly dilated. No atrial septal 
defect or patent foramen ovale is seen by 2D, color Doppler or 
saline contrast at rest. The estimated right atrial pressure is 
___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is a minimally increased gradient consistent with trivial 
pulmonic valve stenosis. There is no pericardial effusion. 

IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Indeterminate pulmonary 
pressure. No intracardiac shunt identified.
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of GERD and 
PUD, who presents with subacute dry cough and worsening dyspnea 
on exertion with new hypoxia with ambulation thought to be ___ 
GERD and likely viral URI.

ACUTE ISSUES
#Subacute cough
#Dyspnea on exertion
#Hypoxemia
Patient presented from his PCP office with progressive dry 
cough, dyspnea on exertion, and exam notable for desaturations 
to high ___ with ambulation. Patient states his symptoms are 
worse at night and in the early morning. In the ED, the patient 
had a CTA chest that showed centrilobular emphysema, no PE, mild 
airways inflammation, and two small pulmonary nodules. While 
ambulating, the patient desatted to 87% in the ED. Thus he was 
admitted and started on ceftriaxone and azithromycin for CAP 
coverage. Extensive laboratory workup was sent including HIV, 
beta glucan, galactomannan, Legionella, Strep, respiratory viral 
panel, pertussis, and H. pylori. TTE was negative for 
intra-cardiac shunt. 
In-house, the patient symptomatically improved in terms of the 
dyspnea on exertion, though continued to have persistent cough. 
His ambulatory O2 sat improved and was satting 93% on room air. 
Because of his improvement after azithromycin/ceftriaxone it was 
thought that his shortness of breath may be related to atypical 
PNA or inflammation from viral process vs. inhaled irritant on 
top of underlying mild emphysema. His chronic cough seems most 
consistent with worsening reflux. He was discharged home to 
complete x5 day regimen of azithro/cefpodoxime, albuterol INH 
PRN for shortness of breath, and max dose PPI.
-Follow up with Pulm as outpatient; PFTs ordered prior to this 
appointment
-Follow pending infectious work-up
-Consider GI referral for endoscopy if no improvement in reflux

# Leukocytosis
On ___, WBC was 36 w/ neutrophilia and left shift. Initially, 
there was concern for possible heme malignancy, but peripheral 
smear without blasts or other abnormalities. Infectious work-up, 
as above, was sent. Patient is being treated for CAP with 
ceftriaxone and azithromycin. UA was bland. Leukocytosis 
improved to 13.1 in ED without intervention and continues to 
downtrend. Possible that initial WBC was in error. Discharged on 
cefpodoxime and azithromycin to complete a 5 day course.

# Pulmonary nodules 
Bilateral pulmonary nodules measure up to 5 mm seen on CTA. As 
per radiology, no CT follow-up in a low-risk patient vs. 
optional CT follow-up in 12 months in a higher-risk patient.

# History of gastric ulcer
# GERD
Was previously on esomeprazole for gastric ulcer in ___. Was 
recently restarted on medication 2 weeks ago given chronic 
nighttime cough without resolution in symptoms. Appears to have 
worsening reflux. Increased to 40mg BID on discharge.

TRANSITIONAL ISSUES
[ ] Currently being treated for CAP with cefpodoxime and 
azithromycin; to complete course on ___ (5 days)
[ ] PCP ___ need to follow-up on the following labs: beta 
glucan, galactomannan, urine Strep, urine Legionella, 
respiratory viral panel, pertussis serologies, HIV
[ ] H. pylori serologies sent, will need to follow-up with PCP; 
if positive can consider treating with quadruple therapy 
(doxycycline, metronidazole, PPI, bismuth)
[ ] Scheduled for pulmonary outpatient appointment with PFTs 
given hypoxemia and centrilobular emphysema on CTA
[ ] CTA ___ with incidentally detected multiple solid pulmonary 
nodules smaller than 6mm; no CT follow-up is recommended in a 
low-risk patient and an optional CT follow-up in 12 months is 
recommended in a high-risk patient

#CODE: FULL CODE (presumed)
___ 
Relationship: WIFE 
Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Esomeprazole 20 mg Other DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 puff IH every six 
(6) hours Disp #*1 Inhaler Refills:*0 
2.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
3.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*6 Tablet Refills:*0 
4.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Dyspnea on exertion

Secondary:
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
- You were becoming more short of breath at home
- Your oxygen levels in the blood were lower than they should 
have been

What was done while I was in the hospital?
- You were given antibiotics for pneumonia
- Your oxygen levels improved

What should I do when I get home from the hospital?
- You should take your reflux medication 2 times per day
- Continue to take your antibiotics (azithromycin and 
cefpodoxime) until ___ for possible pneumonia
- You will need to follow-up with your primary care doctor and 
the lung doctors; make sure to go to these appointments
- If you have fevers, chills, worsening cough, worsening 
shortness of breath, or generally feel unwell, please call your 
doctor or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___